US06645990B2
15] 2-Pyrrolidine carboxylic acid (0.68 g, 5.92 mmol) was added to a solution of 6-bromo-2-pyridine-carboxaldehyde (1.0 g, 5.38 mmol) to give 1-(6-bromopyridin-2-ylmethyl)-pyrrolidine-2-carboxylic acid as a white solid. MS m/z: 285.1 (M+H). Calc'd for C11H13BrN2O2—285.14.

reactant | 2-Pyrrolidine carboxylic acid | 5.92 mmol, 0.68 g | N1C(CCC1)C(=O)O | C5H9NO2
reactant | 6-bromo-2-pyridine-carboxaldehyde | 5.38 mmol, 1.0 g | BrC1=CC=CC(=N1)C=O | C6H4BrNO
product | 1-(6-bromopyridin-2-ylmethyl)-pyrrolidine-2-carboxylic acid | BrC1=CC=CC(=N1)CN1C(CCC1)C(=O)O | C11H13BrN2O2
